US05292760
2-Amino-N-ethyl-α-(3-methyl-2-thienyl)benzeneethanamine dihydrochloride
A solution of 9.2 g of N-[2-[2-(ethylamino)-2-(3-methyl-2-thienyl)ethyl]phenyl]-2,2-dimethylpropanamide in 160 ml of 6N hydrochloric acid was refluxed for 8 hrs. The solution was decanted over ice and basified with 50% sodium hydroxide solution. The aqueous mixture was extracted with dichloromethane, and the organic phase was dried over anhydrous sodium sulfate, filtered and concentrated. The residue was purified by Preparative HPLC (Water Associates Prep LC/System 500 A, silica gel, eluted with methanol, flow rate of 200 ml/min, Gow-Mac Model 80-800 uv detector). The appropriate fractions were collected and concentrated. The residue was dissolved in ether, filtered, and concentrated. The residue was dissolved in methanol, ethereal-hydrogen chloride was added, and the solution was diluted with anhydrous ether to afford 5.0 g of product, mp 202°-204° C.

reactant | N-[2-[2-(ethylamino)-2-(3-methyl-2-thienyl)ethyl]phenyl]-2,2-dimethylpropanamide | 9.2 g | C(C)NC(CC1=C(C=CC=C1)NC(C(C)(C)C)=O)C=1SC=CC1C | C20H28N2OS
reactant | hydrochloric acid | 6N, 160 ml | Cl | ClH
product | 2-Amino-N-ethyl-α-(3-methyl-2-thienyl)benzeneethanamine dihydrochloride | 5.0 g | Cl.Cl.NC1=C(C=CC=C1)CC(NCC)C=1SC=CC1C | InChI=1S/C15H20N2S.2ClH/c1-3-17-14(15-11(2)8-9-18-15)10-12-6-4-5-7-13(12)16;;/h4-9,14,17H,3,10,16H2,1-2H3;2*1H
